US08383827B2
Step 2: Synthesis of N-(2-(5-(3-chloro-4-cyanophenyl)pyridin-3-yl)propan-2-yl)ethanesulfonamide
A mixture of N-(2-(5-bromopyridin-3-yl)propan-2-yl)ethanesulfonamide (30 mg, 0.098 mmol), 2-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzonitrile (27.0 mg, 0.103 mmol), PdCl2(dppf).CH2Cl2 adduct (1.994 mg, 2.441 μmol) and sodium carbonate (98 μl, 0.195 mmol) in DMF (10 mL) was heated to 100° C. overnight. After concentration, the residue was purified by column (MeOH—CH2Cl2, v/v, 10-20%) yielded the title compound as oil (1 mg). ESI-MS m/z: [M+1]+364.0, Retention time=1.40 min. 1H NMR (400 MHz, CDCl3): δ 1.31 (t, J=7.37 Hz, 3H), 1.76 (s, 6H), 2.86-2.91 (m, 21-1), 4.54 (brs, 1H), 7.52 (dd, J=1.7, 8 Hz, 1H), 7.67 (d, J=1.6 Hz, 1H), 7.72 (d, J=8 Hz, 1H), 7.95 (t, J=2.2 Hz, 1H), 8.67 (d, J=2.2 Hz, 1H), 8.76 (d, J=2.2 Hz, 1H).

reactant | N-(2-(5-bromopyridin-3-yl)propan-2-yl)ethanesulfonamide | 0.098 mmol, 30 mg | BrC=1C=C(C=NC1)C(C)(C)NS(=O)(=O)CC | C10H15BrN2O2S
reactant | 2-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzonitrile | 0.103 mmol, 27.0 mg | ClC1=C(C#N)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H15BClNO2
reactant | CH2Cl2 | 2.441 μmol, 1.994 mg | C(Cl)Cl | CH2Cl2
reactant | sodium carbonate | 0.195 mmol, 98 μl | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-(2-(5-(3-chloro-4-cyanophenyl)pyridin-3-yl)propan-2-yl)ethanesulfonamide | 1 mg | ClC=1C=C(C=CC1C#N)C=1C=C(C=NC1)C(C)(C)NS(=O)(=O)CC | C17H18ClN3O2S
